US04820838
Preparation of 1-(3',4'-diethoxy-benzyl)-6,7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate
Into a 250 ml four-necked flask equipped with a stirrer 25 g of 1-(3',4'-diethoxy-benzyl)6,7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate-monohydrate and 250 ml of anhydrous acetone are weighed in. The reaction mixture is stirred at room temperature for 5 hours. The crystalline product is transformed into a loose yellowish-white thick substance, which is filtered, washed twice with 20 ml of acetone each and dried. Thus 23.5 g of the desired compound are obtained, yield 96.5%. mp: 152°-154° C. The product is identical with the substance prepared according to Example 4.

reactant | 1-(3',4'-diethoxy-benzyl)6,7-diethoxy-3,4-dihydro-isoquinolinium-theophylline-7-acetate-monohydrate | 25 g | O.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-].C(C)OC=1C=C(CC2=[NH+]CCC3=CC(=C(C=C23)OCC)OCC)C=CC1OCC
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 1-(3',4'-diethoxy-benzyl)-6,7-diethoxy-3,4-dihydro-isoquinolinium theophylline-7-acetate | 23.5 g, yield 96.5% | C(C)OC=1C=C(CC2=[NH+]CCC3=CC(=C(C=C23)OCC)OCC)C=CC1OCC.N1(C)C(=O)N(C)C=2N=CN(C2C1=O)CC(=O)[O-] | InChI=1S/C24H31NO4.C9H10N4O4/c1-5-26-21-10-9-17(14-22(21)27-6-2)13-20-19-16-24(29-8-4)23(28-7-3)15-18(19)11-12-25-20;1-11-7-6(8(16)12(2)9(11)17)13(4-10-7)3-5(14)15/h9-10,14-16H,5-8,11-13H2,1-4H3;4H,3H2,1-2H3,(H,14,15)
